Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Disorientation
 
Major Surgical or Invasive Procedure:
None. 

 
History of Present Illness:
The patient is a ___ PMHx cavernous hemangiomas (R cerebral 
peduncle, L insula, L frontal lobe, and R temporal lobe (x3) per 
MRI in ___, HTN, HLD, CAD/MI and active cigarette smoking who 
presents with disorientation for 3 days. History is primarily 
obtained from patient's wife, who is a ___.

On ___, wife noted patient to have sudden onset of 
disorientation and disorganization. He could not find his 
medications and was walking around the house "trying to get his 
stuff together" repeatedly. He was "asking about things that 
were not real". His wife found his medications and noted that 
his
bottle for Topamax was dated ___ and full. She checked 
pt's BP (140s/90s) and gave him his evening medications 
including Topamax. He seemed to mildly improve so they went to 
bed.

Of note, in ___, pt had a similar episode where he was driving 
to work and suddenly stopped driving. Police found him with his 
car still in drive mode and he started playing with the police 
officers badge and acting strange. He was brought to the 
hospital; his symptoms were felt to be seizures and this was 
when
he was found to have cavernous hemangiomas.

Therefore, his wife felt the event ___ night may have 
represented a seizure so she was not concerned. She related this 
to pt not being compliant with his Topamax. On ___ AM 
around 1:00, he woke up in the middle of the night and walked 
into the closet saying "I need to pee". Wife had to redirect 
him. He was
still disoriented when we went back to bed.

On ___ AM, he improved but wife noted he had issues with 
short term memory - he would repeat questions over and over. He 
did not recall many events from the day prior. [Pt reports he 
does recall events but they are "hazy", although he is not a 
reliable historian]. As he was not consistently improving, wife 
brought
him to the ED.

Regarding his seizure history, he had a single event in ___ 
concerning for seizure listed above and none since. His wife 
does report that he has had "psychic events" for years that are 
rare. Pt denies a history of olfactory, auditory or gustatory 
hallucinations or senses of ___.

He is currently on Topamax 100 qAM and 200 qPM and has been on 
this medication for ___ years. He was previously on Dilantin but 
this medications was stopped due to variable levels (wife 
reports frequent toxicity). He was also previously on Depakote 
but this was discontinued due to profound weight gain.

On neurologic review of systems, the patient denies headache or 
lightheadedness. Denies difficulty with producing or 
comprehending speech. Denies loss of vision, blurred vision, 
diplopia, vertigo, tinnitus, hearing difficulty, dysarthria, or 
dysphagia. Denies focal muscle weakness, numbness, parasthesia. 
Denies loss of sensation. Denies difficulty with gait.

On general review of systems, the patient reports urinary 
frequency (longstanding). Pt denies fevers, chest pain, 
palpitations, cough, nausea, vomiting, diarrhea, constipation, 
abdominal pain, dysuria or rash.
 
Past Medical History:
Multiple cerebral cavernous malformations complicated by 
seizures
CAD/MI     
Hypertension 
HLD 
History of adenomatous polyp of colon 
BPH/prostatitis
Kidney stone on left side 
Glucose intolerance (impaired glucose tolerance)
 
Social History:
___
Family History:
Biological father is unknown. Mother had ___.   
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: 98.4 79 142/98 18 99% RA 
General: NAD, resting in bed
HEENT: NCAT, no oropharyngeal lesions, moist mucous membranes,
sclerae anicteric
Neck: Supple
___: RRR
Pulmonary: CTAB
Abdomen: Soft, NT, ND
Extremities: Warm, no edema
Skin: No rashes or lesions

Neurologic Examination:
- Mental Status - Awake, alert. When asked the dates, he states
"I don't know". Able to state ___ with multiple choice.
Knows he is in a hospital, but thinks it is ___ on multiple.
Inattentive and poor historian. Able to state ___ forwards but
not backwards (stops at ___. Able to add 7+7. Knows the
currently president is Trump. Able to follow 3-step and cross
body commands. Can name all items on stroke card and read. 
Speech
is fluent with full sentences, intact repetition, and intact
verbal comprehension. Normal prosody. ?subtle hemispatial 
neglect
on the R. No left-right agnosia.

- Cranial Nerves - PERRL 3->2 brisk. VF full to finger wiggling
throughout apart from in the RUQ where there is a delay with
noting finger wiggling. Pt also unable to count fingers in the
RUQ. EOMI, no nystagmus. V1-V3 without deficits to light touch
bilaterally. No facial movement asymmetry. Hearing intact to
finger rub bilaterally. No dysarthria. Palate elevation
symmetric. Trapezius strength ___ bilaterally. Tongue midline.

- Motor - Normal bulk and tone. No drift. No tremor or 
asterixis.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5
R  5    ___   ___  5   5    5  5     5     5

- Sensory - No deficits to light touch or pin bilaterally.

-DTRs:
  Bi Tri ___ Pat Ach
L  3  3    3    3   2
R  3  3    3    3   2
Plantar response flexor bilaterally.

- Coordination - No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

- Gait - Deferred.
========================================
DISCHARGE PHYSICAL EXAM:

Vitals: Tm/c: 98.___.2 BP: 105-136/62-87 HR: 62-70 RR: ___ 
SaO2: 95-99% RA
General: Awake, NAD
HEENT: NC/AT, no scleral icterus noted, MMM, supple neck, 
oropharynx clear
Pulmonary: no increased work of breathing, no tachypnea, 
breathing comfortably in bed
Cardiac: skin warm, well-perfused. 
Abdomen: soft, non-distended
Extremities: Symmetric, no edema.
 
Neurologic:
 
-Mental Status: Alert, oriented to self, unable to give date. 
States he is in the hospital but does not know which one. Fluent 
speech. Naming intact, repetition intact. Follows commands. 
Delayed recall ___ at 3 minutes, ___ with category clue. Thought 
process is quite tangential, though at times he
does come back to the original point after much talking about 
tangential topics. This impairs his ability to communicate 
information effectively.
 
-Cranial Nerves: PERRL 3->2, EOMI, visual fields intact 
bilaterally. Facial sensation intact to light touch bilaterally. 
Facial movements strong bilaterally and symmetric. Palate 
elevates symmetrically. ___ strength in trapezii bilaterally. 
Tongue protrudes in midline.
 
- Motor:  Normal bulk and tone.  No tremor, no asterixis, no 
pronator drift bilaterally.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___        
L  5    ___      5     5   5    5  5     5          
R  5    ___      5     5   5    5  5     5         
 
-Sensory: Grossly intact to LT throughout.
 
Pertinent Results:
================
ADMISSIONS LABS:
================
___ 02:52PM BLOOD WBC-7.2 RBC-4.45* Hgb-14.4 Hct-42.8 
MCV-96 MCH-32.4* MCHC-33.6 RDW-14.1 RDWSD-49.7* Plt ___
___ 02:52PM BLOOD Neuts-68.2 ___ Monos-9.0 Eos-0.3* 
Baso-0.4 Im ___ AbsNeut-4.94 AbsLymp-1.58 AbsMono-0.65 
AbsEos-0.02* AbsBaso-0.03
___ 02:52PM BLOOD ___ PTT-26.8 ___
___ 02:52PM BLOOD Plt ___
___ 02:52PM BLOOD Glucose-120* UreaN-14 Creat-1.2 Na-137 
K-7.7* Cl-108 HCO3-15* AnGap-22*
___ 02:52PM BLOOD estGFR-Using this
___ 02:52PM BLOOD ALT-30 AST-74* CK(CPK)-108 AlkPhos-77 
TotBili-0.7
___ 02:52PM BLOOD cTropnT-<0.01
___ 10:10PM BLOOD cTropnT-<0.01
___ 02:52PM BLOOD Albumin-3.7 Calcium-9.3 Phos-3.2 Mg-2.1
___ 02:52PM BLOOD TSH-0.78
___ 02:52PM BLOOD CRP-0.3
___ 02:52PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 04:47PM BLOOD K-7.8*

=======================
PERTINENT IMAGING:
=======================
NCHCT (___):
 1. Multiple bilateral intraparenchymal hyperdensities, some of 
which are calcified. These are consistent with provided history  
of multiple cavernomas. All but one of these cavernomas were 
seen on prior exam and are grossly unchanged besides slightly 
more conspicuous calcifications.  The one new hyperdense lesion 
which would also be compatible with a cavernoma, in the hand 
motor cortex of the left precentral gyrus, was not present in 
___. No surrounding edema seen surrounding this lesion to 
suggest recent hemorrhage.
 2. Large hypodensity in the left occipital lobe with mild mass 
effect, concerning for subacute infarct, alternatively evolving  
hematoma.  MRI is recommended to further evaluate.

 CXR (___): No acute cardiopulmonary process.

 MR HEAD w/o CONTRST (___): 
 1. Acute left occipital lobe posterior cerebral artery infarct. 

 2. Multiple cavernous malformations in both cerebral 
hemispheres with subacute blood products in right side of the 
midbrain and right cerebellar hemisphere and the others showing 
chronic blood products and none of them showing surrounding 
edema. 

 ECHO (___): 
 -Normal left ventricular cavity size with mild regional 
systolic dysfunction most c/w CAD (PDA distribution). 
 -No valvular pathology or pathologic flow identified. No 
definite structural cardiac source of embolism identified.

 EEG (___): This is a normal awake and drowsy EEG. No focal 
abnormalities or epileptiform discharges are present.

___ 05:35AM BLOOD %HbA1c-5.2 eAG-103
___ 05:35AM BLOOD Triglyc-94 HDL-20 CHOL/HD-4.7 LDLcalc-53

===============
DISCHARGE LABS:
===============
___ 05:25AM BLOOD WBC-7.0 RBC-4.11* Hgb-13.2* Hct-40.0 
MCV-97 MCH-32.1* MCHC-33.0 RDW-13.8 RDWSD-49.7* Plt ___
___ 05:25AM BLOOD Plt ___
___ 05:25AM BLOOD Glucose-78 UreaN-15 Creat-1.2 Na-136 
K-3.3 Cl-106 HCO3-19* AnGap-14
___ 05:25AM BLOOD Calcium-9.0 Phos-2.8 Mg-2.2
 
Brief Hospital Course:
Mr. ___ is a ___ with a history of multiple cavernous 
hemangiomas as well as multiple vascular risk factors who was 
admitted for three days of disorientation and found to have an 
acute left PCA infarct.

#Neurology
Mr. ___ was admitted with acute onset 
confusion/disorientation. He was found to have short term memory 
impairment on exam and initially had RUQ field cut. Imaging 
showed a L PCA territory infarct. Vessel imaging showed no 
significant large artery stenosis nor dissection. His numerous 
chronic cavernous hemangiomas were also seen. EEG performed to 
rule out NCSE, which showed no focal abnormalities nor 
epileptiform discharges. TTE was unremarkable. Telemetry while 
inpt showed no arrhythmias. We considered long-term ambulatory 
cardiac monitoring to rule out occult AFib, but decided not to 
pursue it given high risk of bleeding with anticoagulant therapy 
in the presence of multiple cavernous malformations and evidence 
of prior bleeding on MRI. Mr. ___ also stated that he does 
not want to consider anticoagulation even if indicated. He was 
continued on ASA. 
He was cleared by ___ for home with 24 hour supervision. 

#Cardiopulmonary
Mr. ___ has a history of HTN, HLD, CAD/MI, and smoking.  Trop 
negative x2 on admission and EKG showed TWI in III, aVF. Mr. 
___ was continued on his home ASA, statin, Niacin. He was 
initially treated with half home dose carvedilol for permissive 
hypertension, subsequently restarted.  ECHO showed normal left 
ventricular cavity size with mild regional systolic dysfunction 
most c/w CAD (PDA distribution). 

#ID/Tox/Metabolic:
Admission UA concerning for possible UTI. He was started on CTX, 
which was stopped after urine culture grew only <10,000 normal 
urogenital flora.

24 hour events prior to discharge: 
- No acute events overnight
- Mr. ___ feels well this AM but reports that he is still 
confused.
- ___ OT consult: Recommended discharge home with home health 
OT
- ___ ___ progress note: Recommended discharge home with 24-hour 
supervision

============================================
Transitional Issues: 
[ ] ___: continue to evaluate need for ___ supervision, and 
liberate as able. 

============================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed  () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No
4. LDL documented? (x) Yes (LDL = 53) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) () Yes - (x) No [if 
LDL >100, reason not given: ]
6. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Topiramate (Topamax) 100 mg PO QAM 
2. Topiramate (Topamax) 200 mg PO QHS 
3. Carvedilol 12.5 mg PO BID 
4. trospium 20 mg oral BID 
5. Atorvastatin 40 mg PO QPM 
6. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
7. Niacin SR 1000 mg PO DAILY 
8. Proctosol HC (hydrocorTISone) 2.5 % topical BID:PRN 
9. Aspirin 81 mg PO DAILY 
10. coenzyme Q10 300 mg oral DAILY 
11. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 40 mg PO QPM  
3.  Carvedilol 12.5 mg PO BID  
4.  coenzyme Q10 300 mg oral DAILY  
5.  Niacin SR 1000 mg PO DAILY  
6.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
7.  Proctosol HC (hydrocorTISone) 2.5 % topical BID:PRN  
8.  Topiramate (Topamax) 100 mg PO QAM  
9.  Topiramate (Topamax) 200 mg PO QHS  
10.  trospium 20 mg oral BID  
11.  Vitamin D 1000 UNIT PO DAILY  
12.Outpatient Physical Therapy

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute ischemic stroke

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were hospitalized due to symptoms of confusion resulting 
from an ACUTE ISCHEMIC STROKE, a condition where a blood vessel 
providing oxygen and nutrients to the brain is blocked by a 
clot. The brain is the part of your body that controls and 
directs all the other parts of your body, so damage to the brain 
from being deprived of its blood supply can result in a variety 
of symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
high blood pressure
high cholesterol
smoking

We are changing your medications, please take your medications 
as prescribed.
We are setting you up with home health services including 
occupational therapy for cognitive therapy. 
If you have any concerns about his physical strength, we are 
including a prescription for outpatient physical therapy that 
you can use if you choose. 

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___